US05132424
4-(Ethoxycarbonylpropyl)-6-cyclohexy-4,7-dihydro-2 -phenyl-5H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-5,8(6H)-dione
A mixture of 100 g (2.87) mmole) of 6-cyclohexyl-4,7-dihydro-2-phenyl-5H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-5,8-dione (see preparation 1), 0.82 ml. (5.7 mmoles), of ethyl 4-bromobutyrate and 0.41 g., 3.0 mmole of potassium carbonate in 11 ml. of -dimethyl-sulfoxide (DMSO) was stirred at 50° C. for 16.5 hours. Then 35 ml. of water was added and the mixture was suction filtered. The collected solid was washed with more water and air dried. The crude solid was recrystallized from 95% ethanol (100 ml), reflux cooled to room temperature, affording 1.11 g (84% yield) of the titled compound as very fine white needles, m.p. 195°-196° C. 1H NMR (CDCl3, δ) 8.06 (d, 2H, phenyl-H (ortho), 7.45 (m, 3H, phenyl-H), 6.70 (s, 1H, pyrazole-H, 4.74 (t, 2H, J=Hz, 4-NCH 2), 4.37 (s, 2H, lactam CH2), 4.16 (q, 2H, J=7 Hz, OCH2), 4.15 (m, 1H, 6-NCH), 2.49 (t, 2H, CH2CO2C2H5), 2.23 (m, 2H, CH2), 1.15-1.95 (m, 10H, cyclohexyl CH2), 1.26 (t, 3H, J"7 Hz, CH3.

reactant | 6-cyclohexyl-4,7-dihydro-2-phenyl-5H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-5,8-dione | C1(CCCCC1)N1C(C=2NC=3N(C(C2C1)=O)N=C(C3)C3=CC=CC=C3)=O | C20H20N4O2
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 3.0 mmole | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl-sulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(Ethoxycarbonylpropyl)-6-cyclohexy-4,7-dihydro-2 -phenyl-5H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-5,8(6H)-dione | 1.11 g, 84% yield | C(C)OC(=O)CCCN1C=2N(C(C3=C1C(N(C3)C3CCCCC3)=O)=O)N=C(C2)C2=CC=CC=C2 | C26H30N4O4
